US04734430
To an ice-cold solution of 21 grams of 2-acetyl-1,3-cycloheptanedione in 180 ml of methanol was added, dropwise, a solution of 6.2 ml of methylhydrazine in 30 ml of methanol. The resulting reaction mixture was heated at reflux for 1 hour and the solvent was then removed under reduced pressure. The residual material was partitioned between dichloromethane and brine, the aqueous layer was extracted twice with dichloromethane, and the combined organic layers were dried over magnesium sulfate. The solvent was removed under reduced pressure to leave a dark oil which crystallized on standing. The solid was recrystallized from a mixture of ether and hexane to give 5,6,7,8-tetrahydro-1-methyl-4(1H)-cycloheptapyrazolone as a yellow crystalline solid melting at about 95°-97° C.

reactant | 2-acetyl-1,3-cycloheptanedione | 21 grams | C(C)(=O)C1C(CCCCC1=O)=O | C9H12O3
reactant | methylhydrazine | 6.2 ml | CNN | CH6N2
solvent | methanol | 180 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | 5,6,7,8-tetrahydro-1-methyl-4(1H)-cycloheptapyrazolone | CN1N=CC2=C1CCCCC2=O | C9H12N2O
